US07723333B2
2-tert-Butyl-4-{[3-(4-isopropylphenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate and 4-isopropylphenol in a similar manner as described for Example 12. 1H NMR (500 MHz CDCl3): δ 7.56-7.50 (m, 2H), 7.48-7.42 (m, 3H), 7.16 (d, 2H), 6.80 (d, 2H), 5.78 (t, 1H), 3.88 (t, 2H), 3.10-3.05 (m, 2H), 2.92-2.82 (m, 1H), 1.85-1.80 (m, 2H), 1.75 (s, 9H), 1.24 (d, 6H); 13C NMR (125 MHz CDCl3): δ 159.8, 156.6, 141.8, 135.4, 131.8, 129.7, 128.8, 127.5, 125.4, 114.4, 107.1, 66.1, 61.7, 42.6, 33.5, 29.0, 27.9, 24.4; Mass Spectrum: M+H+ 457.

reactant | 3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
reactant | 4-isopropylphenol | C(C)(C)C1=CC=C(C=C1)O | C9H12O
product | 2-tert-Butyl-4-{[3-(4-isopropylphenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC=C(C=C1)C(C)C)C1=CC=CC=C1)(=O)=O | C25H32N2O4S
